US08957203B2
Preparation of (1R,2S)-1-amino-N-(1-(fluoromethyl)cyclopropylsulfonyl)-2-vinylcyclopropanecarboxamide hydrochloride
A solution of tert-butyl (1R,2S)-1-(1-(fluoromethyl)cyclopropylsulfonylcarbamoyl)-2-vinylcyclopropylcarbamate (11.5 g, 31.7 mmol) in 4 N HCl in dioxane (100 mL) was stirred at room temperature for 1 h. The solvent was evaporated under reduced pressure and the residue was washed with diethyl ether to get crude compound (6 g, 72%). The crude compound was taken to the next step without further purification. MS: MS m/z 263.14 (M++1)

reactant | tert-butyl (1R,2S)-1-(1-(fluoromethyl)cyclopropylsulfonylcarbamoyl)-2-vinylcyclopropylcarbamate | 31.7 mmol, 11.5 g | FCC1(CC1)S(=O)(=O)NC(=O)[C@@]1([C@@H](C1)C=C)NC(OC(C)(C)C)=O | C15H23FN2O5S
reactant | HCl | 4 N | Cl | ClH
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | (1R,2S)-1-amino-N-(1-(fluoromethyl)cyclopropylsulfonyl)-2-vinylcyclopropanecarboxamide hydrochloride | 6 g, 72% | Cl.N[C@]1([C@@H](C1)C=C)C(=O)NS(=O)(=O)C1(CC1)CF | InChI=1S/C10H15FN2O3S.ClH/c1-2-7-5-10(7,12)8(14)13-17(15,16)9(6-11)3-4-9;/h2,7H,1,3-6,12H2,(H,13,14);1H/t7-,10-;/m1./s1
